US05174991
50 g of monolaurylphosphoric acid and 100 g of ethanol were put into a 500 ml reaction vessel. Further, a solution of 7.83 g of 96% sodium hydroxide (purity was taken into consideration by calculating it from the degree of neutralization determined by titration) dissolved in 200g of ion-exchanged water was added thereto. After the temperature was elevated to 80° C., it was confirmed that they were dissolved. Further, the solution was continuously stirred for 30 minutes. A solution of 28.1 g of zinc sulfate heptahydrate dissolved in 100 g of ion-exchanged water was added dropwise thereto to carry out a salt exchange reaction. After the completion of the addition, the mixture was stirred for 30 minutes. 11.75 g of an aqueous solution of 33.33% sodium hydroxide was added dropwise thereto to adjust the pH of the reaction mixture to 5. Further, the mixture was stirred for one hour. After the completion of the reaction, the reaction mixture was cooled and the product was recovered, washed with water and dried, to obtain 49.6 g of the particles of sodium zinc monolaurylphosphate.

reactant | monolaurylphosphoric acid | 50 g | C(CCCCCCCCCCC)OP(O)(O)=O | C12H27O4P
reactant | ethanol | 100 g | C(C)O | C2H6O
reactant | sodium hydroxide | 7.83 g | [OH-].[Na+]
reactant | zinc sulfate heptahydrate | 28.1 g | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Zn+2]
solvent | water | O | H2O
product | sodium zinc monolaurylphosphate | C(CCCCCCCCCCC)OP(=O)([O-])[O-].[Zn+2].[Na+] | InChI=1S/C12H27O4P.Na.Zn/c1-2-3-4-5-6-7-8-9-10-11-12-16-17(13,14)15;;/h2-12H2,1H3,(H2,13,14,15);;/q;+1;+2/p-2
